US06355636B1
To 626 mg of 4-chloro-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile in 20 mL of absolute ethanol was added 1 mL of 3-bromoaniline. After refluxing the reaction under an inert atmosphere for 18 hours, the reaction mixture was cooled to ambient temperature, concentrated to 5 mL, diluted with ether, and the product filtered and washed with ether. Drying in vacuo yielded 500 mg of 4-(3-bromo-phenylamino)-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile as an off-white solid: melting point 125° C. (sublimed); mass spectrum (m/e): M+H 421.1, 423.2.

reactant | 4-chloro-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile | 626 mg | ClC1=C(C=NC2=CN=C(C=C12)C#C[Si](C)(C)C)C#N | C14H12ClN3Si
reactant | 3-bromoaniline | 1 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(3-bromo-phenylamino)-6-trimethylsilanylethynyl-[1.7]naphthyridine-3-carbonitrile | 500 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)C#C[Si](C)(C)C)C#N | C20H17BrN4Si
